US07550200B2
Microencapsulation of Kathon 287T Biocide Containing Solvent Diluent
The core material is prepared as a mixture of 100 grams of Kathon 287T (97%) manufactured by Rohm and Haas and 100 grams of a substituted aromatic solvent, SAS 310 manufactured by Nisseki Chemical and heated to 40° C. The aqueous phase and the core material are added to a 1-quart Waring Blender jar and the slurry is emulsified at moderate speed for about 15 minutes to produce an oil-in-water emulsion of droplets in the size range of about 10 to 40 microns. The emulsion is transferred to a 1-liter beaker. The slurry is slowly agitated using a turbine impellor while maintaining the temperature at about 40° C. A solution of 4 grams of urea and 10 grams of resorcinol in 60 grams of water is slowly added to the emulsion. A solution of 2 grams sodium sulfate in 30 grams of water is subsequently added to the slurry in drop-wise fashion. A 30 ml 37% formaldehyde solution is added drop-wise followed 10 minutes later by the addition of 20 ml of a 10% sulfuric acid solution over a 5-minute period. The slurry is warmed to 45° C. and after about one hour a solution of 4 g of urea, 6 g of resorcinol, 50 g of water and 20 ml of 37% formaldehyde second addition is added drop-wise. This solution may be divided, with half added in 15 minutes followed by a 15-minute hold period prior to adding the second half. One hour later another solution like the proceeding is added to the slurry in the same fashion. The slurry is heated to 55° C. and allowed to stir for 16 hours. The microcapsule slurry is cooled to ambient temperature and pH adjusted to 7.0 using 10% sodium hydroxide solution. The slurry is then diluted with water and strained using a 125-150 um sieve to remove encapsulated air and any debris. The slurry is set aside to allow the microcapsules to settle. The supernatant liquid is decanted and microcapsule concentrate is re-slurried with water. A small amount of Syloid 244 silica from W. R. Grace Company is stirred into the slurry; and the microcapsules are vacuum-filtered using Whatman 4.0 paper and tray dried to produce 230 grams of dry free-flowing powder. The resultant microcapsules are mostly 10-40 microns and can be incorporated in a marine coating composition to impart anti-fouling properties. The microcapsules were tested for stability in xlyene by placing a 50-mg sample into 50 mls of xlyene and periodically analyzing a small aliquot of the xylene spectrophotometrically for the presence of DCOIT to determine the amount diffused through the capsule shell. Samples were tested after room storage. 1.1% DCOIT was released after 56 days at room temperature.

reactant | DCOIT | CCCCCCCCN1C(=O)C(=C(S1)Cl)Cl | C11H17Cl2NOS
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | Kathon | CCCCCCCCN1C(=O)C=CS1 | C11H19NOS
